*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.15
*** -----------------------------------------------------
***     Extraction Engine: KPEX/FasterCap
***     Technology: ihp_sg13g2
***     Date: 2026-09-04 11:25:25
*********************************************************

.SUBCKT capsub_tm1
CCext_0_1 VSUBS \$2 21.6712f
CCext_0_2 VSUBS \$3 3.53006f
CCext_1_2 \$2 \$3 26.7792a
CCext_1_1 \$2 VSUBS 2.18292f
CCext_2_2 \$3 VSUBS 553.241a
RRext_FC_GND_GND FC_GND GND 0 PEX_RES
RRext_VSUBS_GND VSUBS GND 0 PEX_RES
.ENDS capsub_tm1
